US09283555B2
4-tert-butyl-N1-(2,6-dimethylphenyl)benzamidine (Amidine IV)
Procedure as described for Amidine I using the following amounts: 6.15 mL of 2,6-dimethylaniline (50.0 mmol); 26.0 mL of 2.0 M butyllithium (52.0 mmol), 8.50 mL of 4-t-butylbenzonitrile (50.0 mmol). After refluxing overnight, the solution was red-orange. Addition of water yielded a yellow solution with suspended solid. Solution was filtered, taken to dryness, resuspended in 100 mL of pentane and stirred vigorously for 1 hour. The resulting white solid was filtered and dried in vacuo yielding 11.19 g of white powder. The filtrate was concentrated to approximately 50 mL and cooled to −10° C. An additional 1.47 g of solid was isolated. Total yield 10.60 g (76%). 1H NMR (400 MHz, CDCl3): 7.87 (d, 2H), 7.50 (d, 2H), 7.04 (d, 2H), 6.90 (t, 1H), 4.56 (s, 2H), 2.15 (s, 6H), 1.36 (s, 9H). 13C {1H} NMR (100 MHz, CDCl3): 154.27, 153.01, 146.97, 133.12, 129.16, 128.53, 126.83, 125.88, 123.05, 35.21, 31.59, 18.17.

reactant | 2,6-dimethylaniline | 50.0 mmol, 6.15 mL | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | butyllithium | 52.0 mmol, 2.0 M, 26.0 mL | C(CCC)[Li]
reactant | 4-t-butylbenzonitrile | 50.0 mmol, 8.50 mL | C(C)(C)(C)C1=CC=C(C#N)C=C1 | C11H13N
solvent | water | O | H2O
product | 4-tert-butyl-N1-(2,6-dimethylphenyl)benzamidine | 11.19 g | C(C)(C)(C)C1=CC=C(C(=N)NC2=C(C=CC=C2C)C)C=C1 | C19H24N2
